US07645771B2
Preparation of 3-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-2,2-dimethyl-3-oxopropanoic acid
3-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-2,2-dimethyl-3-oxopropanoic acid was obtained from 3-Ethoxy-2,2-dimethyl-3-oxopropanoic acid, Example 628, (0.029 g, 0.18 mmol), 1-(8-(2-[4-(3-Fluoro-phenyl)-piperidin-4-yl]-ethyl)-8-aza-bicyclo[3.2.1]oct-3-yl)-2-methyl-1H-enzoimidazole dihydrochloride (0.075 g, 0.18 mmol), and HATU (0.067 g, 0.18 mmol) following the procedure outlined in example 5 to produce ethyl 3-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-2,2-dimethyl-3-oxopropanoate. Ethyl 3-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-2,2-dimethyl-3-oxopropanoate (0.100 g, 0.170 mmol), 5 N NaOH (10 ml) and ethanol (4 ml) was stirred at 90° C. for 3 hrs. The reaction was evaporated to dryness and residue was suspend in water (10 ml) and neutralized with 1N HCl. The aqueous layer was extracted with ethyl acetate (3×10 ml). The organic layer was dried using magnesium sulfate and concentrated down to form the title compound as a white solid (0.081 g, 85%). ES-LCMS m/z 561 (M+1).

reactant | Ethyl 3-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-2,2-dimethyl-3-oxopropanoate | 0.170 mmol, 0.100 g | FC=1C=C(C=CC1)C1(CCN(CC1)C(C(C(=O)OCC)(C)C)=O)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C35H45FN4O3
reactant | NaOH | 5 N, 10 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-2,2-dimethyl-3-oxopropanoic acid | 0.081 g, 85% | FC=1C=C(C=CC1)C1(CCN(CC1)C(C(C(=O)O)(C)C)=O)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C33H41FN4O3
